US05198014
To a stirred solution of 0.31 gram (0.002 mole) of phenylmethanesulfonamide in 15 mL of tetrahydrofuran was added 0.05 gram (0.002 mole) of sodium hydride which was washed into the reaction vessel with 10 mL of tetrahydrofuran. The reaction mixture was warmed to reflux temperature, and a solution of 0.32 gram (0.001 mole) of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride in 5 mL of tetrahydrofuran was added dropwise during a 20 minute period. Upon completion of the addition, heating of the reaction mixture at reflux was continued for 75 minutes. After this time, the reaction mixture was cooled, and 1 mL of water was added. The mixture was concentrated under reduced pressure to a residue. The residue was dissolved in 35 mL of water, and the solution was acidified with aqueous 4N hydrochloric acid. The resultant solid was collected by filtration, and the filter cake was washed with water. The filter cake was then stirred with hot water. The hot water was decanted away from a semi-solid material. The semi-solid was stirred with fresh cold water which caused the semi-solid to totally solidify. The solid was collected by filtration and was then dissolved in 1:1 toluene/ethyl acetate. The solution was passed through a column of silica gel. The eluate was concentrated under reduced pressure, yielding 0.13 gram of N-phenylmethanesulfonyl-3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylamide. The nmr spectrum was consistent with the proposed structure.

reactant | phenylmethanesulfonamide | 0.002 mole, 0.31 gram | C1(=CC=CC=C1)CS(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | 0.002 mole, 0.05 gram | [H-].[Na+]
reactant | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride | 0.001 mole, 0.32 gram | C(#N)C=1C=NN(C1C=CC(=O)Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C13H5Cl2F3N4O
reactant | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-phenylmethanesulfonyl-3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylamide | 0.13 gram | C1(=CC=CC=C1)CS(=O)(=O)NC(C=CC1=C(C=NN1C1=NC=C(C=C1Cl)C(F)(F)F)C#N)=O | C20H13ClF3N5O3S
